US09370516B2
2-[(R)-5-(6-methyl-pyrimidin-4-yl)-indan-1-yl]-2,7-diaza-spiro[3.5]nonane dihydrochloride
(R)-tert-butyl 2-(5-(6-methylpyrimidin-4-yl)-2,3-dihydro-1H-inden-1-yl)-2,7-diazaspiro[3.5]nonane-7-carboxylate (72.6 g, 167 mmol) was suspended in methanol (363 mL) and 4M HCl in 1,4-dioxane (251 mL) was added. After stirring for 2 hours, the slurry was concentrated to dryness. The crude material was re-suspended in MeOH (500 mL) and concentrated (3×). The resulting solids were further dried under vacuum at 45° C. to afford the title compound (74.1 g, 99.9%). MS (ES+) 335.2 (M+H)+. 1H NMR (CD3OD) δ 2.16-2.23 (m, 5H), 2.59 (br s, 1H), 2.78-2.80 (m, 3H), 3.12 (br s, 1H), 3.19-3.24 (m, 4H), 3.37-3.49 (m, 1H), 4.14-4.23 (m, 3H), 4.49 (br s, 1H), 5.11 (br s, 1H), 7.84 (d, 1H), 8.30-8.34 (m, 2H), 8.46 (s, 1H), 9.36 (s, 1H).

reactant | (R)-tert-butyl 2-(5-(6-methylpyrimidin-4-yl)-2,3-dihydro-1H-inden-1-yl)-2,7-diazaspiro[3.5]nonane-7-carboxylate | 167 mmol, 72.6 g | CC1=CC(=NC=N1)C=1C=C2CC[C@H](C2=CC1)N1CC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C26H34N4O2
reactant | HCl | 4M | Cl | ClH
solvent | methanol | 363 mL | CO | CH4O
solvent | 1,4-dioxane | 251 mL | O1CCOCC1 | C4H8O2
product | 2-[(R)-5-(6-methyl-pyrimidin-4-yl)-indan-1-yl]-2,7-diaza-spiro[3.5]nonane dihydrochloride | 74.1 g, 99.9% | Cl.Cl.CC1=CC(=NC=N1)C=1C=C2CC[C@H](C2=CC1)N1CC2(C1)CCNCC2 | InChI=1S/C21H26N4.2ClH/c1-15-10-19(24-14-23-15)17-2-4-18-16(11-17)3-5-20(18)25-12-21(13-25)6-8-22-9-7-21;;/h2,4,10-11,14,20,22H,3,5-9,12-13H2,1H3;2*1H/t20-;;/m1../s1
